US06136823
Synthesis of 6,7-Difluoro-1-(4-fluoro-3-methoxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Ethyl 6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (400 mg) was added to a mixed liquid (1:1, v/v; 4 ml) of 2N hydrochloric acid and acetic acid, and the mixture was stirred and heated under reflux for 5 hours. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (358 mg) as a colorless powder.

reactant | Ethyl 6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 400 mg | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1=CC(=C(C=C1)F)OC)C(=O)OCC)=O | C20H16F3NO4
reactant | hydrochloric acid | 2N, 4 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,7-Difluoro-1-(4-fluoro-3-methoxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 358 mg | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1=CC(=C(C=C1)F)OC)C(=O)O)=O | C18H12F3NO4
